US07807716B2
To the reactor 2-hydroxyethyl nitrate (8 kg) was added, followed by dichloromethane (25 L). Then, boc-L-valine (12.5 kg) was added slowly under stirring, and the reaction mixture was cooled down to −10° C. Afterwards, DMAP (50 g) was added as the catalyst, and DCC (12.5 kg dissolved in 5 L of dichloromethane) was slowly added dropwise to the mixture under −10° C. The reaction was continued for another 5 hours at temperature between −10 and 0° C. under continuous stirring, while insoluble white solid was gradually formed. The reaction mixture was then warmed up slowly to room temperature, and the reaction was continued for another 12 hours at room temperature. At the end, the reaction mixture was filtered, and the filtrate was washed with water and dried to yield the crude nitrooxyethyl boc-valinate that was used directly in the next step.

reactant | 2-hydroxyethyl nitrate | 8 kg | [N+](=O)(OCCO)[O-] | C2H5NO4
reactant | boc-L-valine | 12.5 kg | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)O | C10H19NO4
reactant | DCC | 5 L, 12.5 kg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 50 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | dichloromethane | 25 L | ClCCl | CH2Cl2
product | nitrooxyethyl boc-valinate | C(=O)(OC(C)(C)C)N[C@@H](C(C)C)C(=O)OCCO[N+](=O)[O-] | C12H22N2O7
